US07109364B2
2-chloro-4-nitro-phenol (64.44 g, 0.4 mole) and 300 ml 4M NaOH solution were refluxed with heating for 6 hours. After cooling down and filtration with vacuuming, the filtrate (crystal) was dissolved in a little warm water (60° C.). The solution was adjusted to pH 2.0 with 10% HCl and cooled down while stirring. After filtration, the filtrate was recrystallized with water to yield 4-nitro-1,2-benzenediol (52.1 g, yield rate 84%).

reactant | 2-chloro-4-nitro-phenol | 0.4 mole, 64.44 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | NaOH | 4M, 300 ml | [OH-].[Na+]
product | 4-nitro-1,2-benzenediol | 52.1 g, 84% | [N+](=O)([O-])C=1C=C(C(=CC1)O)O | C6H5NO4
